US06949678B2
1.b 4-Phenylsulfanyl-benzaldehyde Oxime
To 4.20 g (19.6 mmol) of 4-phenylsulfanyl-benzaldehyde, 1.50 g (21.6 mmol) of H2NOH—HCl and 2.71 g (33.1 mmol) of sodium acetate are added 6.5 mL of H2O and 19.5 mL of ethanol. This reaction mixture is heated to reflux for 2 h. After adding H2O to dissolve the precipitated inorganic salt, ethanol is removed by evaporation in vacuo. The crude product is extracted twice with CH2Cl2. The CH2Cl2 layer is dried over anhydrous MgSO4 and then condensed. The residue is applied to column chromatography on silica gel with CH2Cl2 and CH2Cl2-acetone (10:1) as eluent. 3.86 g of white solid are obtained as the first fraction (86%). This product is assigned to be (E) oxime by 1H-NMR spectrum (CDCl3). δ [ppm]: 7.25 (d, 2H), 7.32-7.35 (m, 3H), 7.42 (d, 2H), 7.47 (d, 2H), 7.77 (s, 1H), 8.09 (s, 1H); 0.29 g of white solid are obtained as the second fraction (6.6%). This product is assigned to be (Z) oxime by 1H-NMR spectrum (CDCl3). δ [ppm]: 7.25 (d, 2H), 7.32-7.38 (m, 4H), 7.45 (d, 2H), 7.84 (d, 2H). 9.55 (broad s, 1H)

reactant | 4-phenylsulfanyl-benzaldehyde | 19.6 mmol, 4.20 g | C1(=CC=CC=C1)SC1=CC=C(C=O)C=C1 | C13H10OS
reactant | H2NOH—HCl | 21.6 mmol, 1.50 g | NO.Cl
reactant | sodium acetate | 33.1 mmol, 2.71 g | C(C)(=O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 acetone | C(Cl)Cl.CC(=O)C
solvent | ethanol | C(C)O | C2H6O
solvent | H2O | O | H2O
solvent | ethanol | 19.5 mL | C(C)O | C2H6O
solvent | H2O | 6.5 mL | O | H2O
product | 4-Phenylsulfanyl-benzaldehyde Oxime | 3.86 g | C1(=CC=CC=C1)SC1=CC=C(C=NO)C=C1 | C13H11NOS
